US07034039B2
A solution of tert-butyl(4-butoxy-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.42 g, 1 mmol), 2-iodoacetamide (0.27 g, 1.5 mmol) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.22 mL, 1.5 mmol) in N,N-dimethylformamide (10 mL) was stirred at 80° C. for 10 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-diisopropyl ether to give tert-butyl[6-(2-amino-2-oxoethoxy)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.37 g, 78.7%) as crystals.

reactant | tert-butyl(4-butoxy-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 1 mmol, 0.42 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)O)=O)CC(C)C)=O | C23H34N2O5
reactant | 2-iodoacetamide | 1.5 mmol, 0.27 g | ICC(=O)N | C2H4INO
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 1.5 mmol, 0.22 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-butyl[6-(2-amino-2-oxoethoxy)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.37 g, 78.7% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)OCC(=O)N)=O)CC(C)C)=O | C25H37N3O6
